### PR TITLE
feat: IMO 2025 Q4

### PR DESCRIPTION
**Pull request by LexinonCraft**
This adds a solution for problem 4 from the International Math Olympiad 2025.

---

### CODE REVIEW

File: Archive/Imo/Imo2025Q4.lean [hunk 1]
```diff
@@ -0,0 +1,630 @@
...
+    Magic n := by
+  use fun _ ↦ n; refine ⟨by simp, ?_⟩; intro _; exact ⟨h_card, hα⟩
+
+lemma not_magic_zero : ¬Magic 0 := by rw [magic_iff]; simp
+
+lemma ne_zero_of_magic : Magic n → n ≠ 0 := by contrapose; intro h; rw [h]; exact not_magic_zero
+
+/-- A list of all divisors of `n` in increasing order. Thus, $d_i(n)$ from the proof sketch above
+corresponds to `(divisorsList n)[i]`. By definition, `divisorsList 0 = []`. -/
+def divisorsList (n : ℕ) : List ℕ := n.divisors.sort
```
Comment (jsm28) [inline Archive/Imo/Imo2025Q4.lean:99]: The sorted list of divisors is a concept much more generally useful than just for this IMO problem, and the greatest benefit from IMO formalizations is adding more generally useful API to mathlib.

I don't know whether it should have its own `def` in mathlib, but basic lemmas about the sorted list should definitely go in mathlib, such as that all elements are positive (if you have a `def` for it; in the absence of a `def`, there may not be much value in such a lemma separate from the lemma that this is true for the unsorted `Finset` of divisors), the first is 1, the last is n, and reversing the list is equivalent to dividing n by each element. You have various such lemmas; they need to go in mathlib proper rather than in a specific IMO file in the mathlib archive (and likewise for anything about `properDivisors` that's not specific to this problem).

The additions to mathlib proper should go in a separate PR (that this one can depend on) so that they benefit from a broader pool of reviewers who may look at PRs to mathlib proper but not at IMO PRs. Once everything of more general use is in mathlib and this PR only has things genuinely specific to this problem left, then the IMO formalization itself can be reviewed.
